US08629157B2
Synthesis of (S)-1-(tetrahydro-pyran-4-ylmethyl)-pyrrolidine-2-carboxylic acid (4-tert-butyl-thiazol-2-yl)-amide
To a solution of (S)-pyrrolidine-2-carboxylic acid (4-tert-butyl-thiazol-2-yl)-amide; hydrochloride (0.310 g; 1.070 mmol) in 1,2-dichloroethane (2 mL) was added tetrahydro-pyran-4-carbaldehyde (0.244 g; 2.140 mmol), acetic acid (0.2 mL; 3.497 mmol), and sodium sulfate(5-10 equivalents). The mixture is stirred for 30-45 minutes before adding sodium triacetoxyborohydride (0.454 g; 2.140 mmol) and stirring overnight at room temperature. After this time, the mixture is filtered through a plug of silica/Celite® and concentrated in vacuo. Crude material is purified by preparative HPLC. Product fractions are pooled and concentrated in vacuo to afford title compound as an oil. ESI m/z 352 [M+H]+

reactant | (S)-pyrrolidine-2-carboxylic acid (4-tert-butyl-thiazol-2-yl)-amide | C(C)(C)(C)C=1N=C(SC1)NC(=O)[C@H]1NCCC1 | C12H19N3OS
reactant | hydrochloride | 1.070 mmol, 0.310 g | Cl | ClH
reactant | tetrahydro-pyran-4-carbaldehyde | 2.140 mmol, 0.244 g | O1CCC(CC1)C=O | C6H10O2
reactant | acetic acid | 3.497 mmol, 0.2 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 2.140 mmol, 0.454 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 2 mL | ClCCCl | C2H4Cl2
product | (S)-1-(tetrahydro-pyran-4-ylmethyl)-pyrrolidine-2-carboxylic acid (4-tert-butyl-thiazol-2-yl)-amide | C(C)(C)(C)C=1N=C(SC1)NC(=O)[C@H]1N(CCC1)CC1CCOCC1 | C18H29N3O2S
